US09255093B2
5-Formylbenzofuran-2-carbonitrile (168 mg, 0.98 mmol) was added to 2 mL of TFE and stirred at 35-40° C. After 5 min, the solution became clear, 4-propyl-3-(trifluoromethyl)aniline (199 mg, 0.982 mmol) was added, and a yellow precipitate formed. The mixture was vigorously stirred at the same temperature for 0.5 hr, NaBH4 (44.6 mg, 1.18 mmol) was added and the reaction was stirred at this temperature for another 0.5 hr. LCMS indicated the reaction was complete, the mixture was filtered, and the residue was washed with TFE (2 mL). The solvent was concentrated under reduced pressure and the crude product was purified by silica gel flash chromatography, 100% Heptane-10% Ethyl Acetate/90% Heptane, to give 5-(((4-propyl-3 (trifluoromethyl)phenyl)amino)-methyl)benzofuran-2-carbonitrile (243 mg). LCMS retention time=1.76 minutes (LC method 3); MS (m+1)=358.8. 1H NMR (400 MHz, DMSO-d6) δ 0.88 (t, J=7.3 Hz, 3H), 1.48 (sxt, J=7.5 Hz, 2H), 2.47 (br. s., 2H) 4.41 (d, J=6.0 Hz, 2H), 6.64 (t, J=6.1 Hz, 1H), 6.74 (dd, J=8.4, 2.4 Hz, 1H), 6.86 (d, J=2.5 Hz, 1H), 7.10 (d, J=8.4 Hz, 1H), 7.59 (dd, J=8.7, 1.7 Hz, 1H), 7.71 (d, J=8.7 Hz, 1H), 7.78 (d, J=1.0 Hz, 1H), 8.09 (d, J=0.9 Hz, 1H).

reactant | 5-Formylbenzofuran-2-carbonitrile | 0.98 mmol, 168 mg | C(=O)C=1C=CC2=C(C=C(O2)C#N)C1 | C10H5NO2
reactant | 4-propyl-3-(trifluoromethyl)aniline | 0.982 mmol, 199 mg | C(CC)C1=C(C=C(N)C=C1)C(F)(F)F | C10H12F3N
reactant | NaBH4 | 1.18 mmol, 44.6 mg | [BH4-].[Na+]
product | 5-(((4-propyl-3 (trifluoromethyl)phenyl)amino)-methyl)benzofuran-2-carbonitrile | 243 mg | C(CC)C1=C(C=C(C=C1)NCC=1C=CC2=C(C=C(O2)C#N)C1)C(F)(F)F | C20H17F3N2O
